US07476764B2
Step 3: Preparation of (R)-3-acetyl-5-((1-phenylethyl)carbamoyl)benzoic acid.
To a solution of (R)-methyl 3-acetyl-5-((1-phenylethyl)-carbamoyl)benzoate (332 mg, 1.02 mmol) in a mixture of THF (1.4 mL), MeOH (2.8 mL) and H2O (7.0 mL), was added LiOH (73.4 mg, 3.06 mmol) and the mixture was stirred at room temperature for 1 h. The mixture was concentrated and partitioned between ethyl acetate and H2O. The aqueous layer was washed with ethyl acetate twice and acidified with 1N HCl solution to pH around 2˜3. The aqueous layer was extracted with ethyl acetate 3 times and the combined organic layers were dried over sodium sulfate and concentrated under vacuum to give the title compound which was ready for next step without further purification (300 mg, 95% yield): HPLC retention time: 1.662 min (method A). MS (ESI) (M+H)+ 311.00.

reactant | (R)-methyl 3-acetyl-5-((1-phenylethyl)-carbamoyl)benzoate | 1.02 mmol, 332 mg | C(C)(=O)C=1C=C(C(=O)OC)C=C(C1)C(N[C@H](C)C1=CC=CC=C1)=O | C19H19NO4
reactant | MeOH | 2.8 mL | CO | CH4O
reactant | H2O | 7.0 mL | O | H2O
reactant | LiOH | 3.06 mmol, 73.4 mg | [Li+].[OH-]
solvent | THF | 1.4 mL | C1CCOC1 | C4H8O
product | (R)-3-acetyl-5-((1-phenylethyl)carbamoyl)benzoic acid | 95% yield | C(C)(=O)C=1C=C(C(=O)O)C=C(C1)C(N[C@H](C)C1=CC=CC=C1)=O | C18H17NO4
